US06103907
(a) Ethyl 2-ethylamino-3-(4-hydroxyphenyl)propionate
Reaction and post-treatment were carried out according to Reference example 9 using 983 mg of DL-tyrosine ethyl ester hydrochloride, 0.26 ml of acetaldehyde and 100 mg of sodium cyanoborohydride to obtain 515 mg of the desired compound as a syrup which soon crystallized.

reactant | DL-tyrosine ethyl ester hydrochloride | 983 mg | Cl.C(C)OC(C(N)CC1=CC=C(C=C1)O)=O
reactant | acetaldehyde | 0.26 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 100 mg | C(#N)[BH3-].[Na+]
product | Ethyl 2-ethylamino-3-(4-hydroxyphenyl)propionate | 515 mg | C(C)NC(C(=O)OCC)CC1=CC=C(C=C1)O | C13H19NO3
